US03997564
To a solution of 8.5 gm. of 1-isopropyl-4-phenyl-6,7-methylenedioxy-3,4-dihydro-2(1H)-quinazolinone in 225 ml. of p-dioxane, cooled to 10°-13°C., is added dropwise a solution of 4.3 gm. of potassium permanganate in 185 ml. of water. When the addition is complete, 2 ml. of formalin solution are added. Precipitated solids are removed by filtration and the solvents stripped from the filtrate at reduced pressure. The residue is decolorized with activated charcoal in ethyl acetate and recrystallized from ethyl acetate to obtain 1-isopropyl-4-phenyl-6,7-methylenedioxy-2(1H)-quinazolinone, m.p. 187°-191°C.

reactant | 1-isopropyl-4-phenyl-6,7-methylenedioxy-3,4-dihydro-2(1H)-quinazolinone | C(C)(C)N1C(NC(C2=CC3=C(C=C12)OCO3)C3=CC=CC=C3)=O | C18H18N2O3
reactant | p-dioxane | O1CCOCC1 | C4H8O2
reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | formalin | C=O | CH2O
solvent | water | O | H2O
product | 1-isopropyl-4-phenyl-6,7-methylenedioxy-2(1H)-quinazolinone | C(C)(C)N1C(N=C(C2=CC3=C(C=C12)OCO3)C3=CC=CC=C3)=O | C18H16N2O3
